US09108966B2
Ammonia in MeOH solution (2.3 mL, 16.11 mmol) was added to a solution of ethyl 5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,2,4-oxadiazole-3-carboxylate (600 mg, 1.61 mmol) in isopropanol (8 mL) and the reaction mixture was heated at 40° C. for 1 h. The solvent was removed under vacuum and the residue was purified by silica gel column chromatography (0 to 10% MeOH/DCM) to afford 5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,2,4-oxadiazole-3-carboxamide (220 mg, 40%). ESI-MS (EI+, m/z): 344.3.

reactant | Ammonia | N | H3N
reactant | MeOH | 16.11 mmol, 2.3 mL | CO | CH4O
reactant | ethyl 5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,2,4-oxadiazole-3-carboxylate | 1.61 mmol, 600 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NC(=NO2)C(=O)OCC | C18H20N4O5
solvent | isopropanol | 8 mL | C(C)(C)O | C3H8O
product | 5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,2,4-oxadiazole-3-carboxamide | 220 mg, 40% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NC(=NO2)C(=O)N | C16H17N5O4
